US07741352B2
N-(2-Hydroxy-4-octyloxy-phenyl)-2,2,2-trifluoro-acetamide (Compound 1)
To a solution of N-(2,4-dihydroxy phenyl)-2,2,2-trifluoro-acetamide (0.44 g; 2 mmol) in DMF (4 mL) was added K2CO3 and 1-bromooctane (0.37 mL; 2.1 mmol). The slurry was stirred for 2 days at room temperature, poured onto 0.1 M HCl (aq.; 50 mL) and then extracted with diethylether (30 mL). The organic phase was dried (MgSO4), filtered and the eluate evaporated to leave 550 mg of black solid which was purified by chromatography (SiO2; PE80-100° C./EtOAc=4:1) to leave 100 mg (15%) of a pure white solid. Mp. 114-116° C.; MS (GC-MS; Cl): 334 (MH+).

reactant | N-(2,4-dihydroxy phenyl)-2,2,2-trifluoro-acetamide | 2 mmol, 0.44 g | OC1=C(C=CC(=C1)O)NC(C(F)(F)F)=O | C8H6F3NO3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromooctane | 2.1 mmol, 0.37 mL | BrCCCCCCCC | C8H17Br
reactant | HCl | 0.1 M, 50 mL | Cl | ClH
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-(2-Hydroxy-4-octyloxy-phenyl)-2,2,2-trifluoro-acetamide | 550 mg | OC1=C(C=CC(=C1)OCCCCCCCC)NC(C(F)(F)F)=O | C16H22F3NO3
